US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methyl-3-(2,2,2-trifluoroethoxymethyl)-piperidine
A mixture of methanesulfonic acid 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-ylmethyl ester (0.35 g, 0.98 mmol), K2CO3 (0.68 g) and trifluoroethanol (4 ml) was irradiated in a microwave reactor at 150° C. for 10 min. Water was added and the reaction mixture was extracted with DCM (2×20 ml). The combined organic phases were dried over Na2SO4, filtered and the filtrate was evaporated to give the title compound, which was purified by column chromatography (DCM/MeOH, 90:10).

reactant | methanesulfonic acid 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-ylmethyl ester | 0.98 mmol, 0.35 g | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COS(=O)(=O)C | C17H25NO5S
reactant | K2CO3 | 0.68 g | C(=O)([O-])[O-].[K+].[K+]
reactant | trifluoroethanol | 4 ml | C(C(F)(F)F)O | C2H3F3O
solvent | Water | O | H2O
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methyl-3-(2,2,2-trifluoroethoxymethyl)-piperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(COCC(F)(F)F)C | C18H24F3NO3
